US05475014
3-[2-(1(S)-Hydroxy-3-carbamoylpropyl)benzothiazol-6-yl]-5(R)-methoxymethyl-2-oxazolidinone
50 ml of liquid ammonia was put in a sealed tube at -78° C. and 2.9 g of 3-[2-(5-hydroxytetrahydrofuran-2-yl)benzothiazol-6-yl]-5-methoxymethyl-2-oxazolidinone was added thereto. After sealing followed by stirring at room temperature for 3 h, ammonia was slowly evaporated. Acetone was added to the residue and the precipitated crystals were separated by filtration and dried to give 2.6 g of the titled compound.

reactant | ammonia | N | H3N
reactant | 3-[2-(5-hydroxytetrahydrofuran-2-yl)benzothiazol-6-yl]-5-methoxymethyl-2-oxazolidinone | 2.9 g | OC1CCC(O1)C=1SC2=C(N1)C=CC(=C2)N2C(OC(C2)COC)=O | C16H18N2O5S
product | 3-[2-(1(S)-Hydroxy-3-carbamoylpropyl)benzothiazol-6-yl]-5(R)-methoxymethyl-2-oxazolidinone | 2.6 g | O[C@@H](CCC(N)=O)C=1SC2=C(N1)C=CC(=C2)N2C(O[C@H](C2)COC)=O | C16H19N3O5S
